US05965563
N6 -(1-tetralyl) adenine hydrochloride salt
A solution of 6-chloropurine (1.546 g, 10 mM) and 1-aminotetralin(1.472 g, 10 mM) in isopropanol (60 ml) is heated to reflux for about 20 h. The resulting salt suspension is then cooled to room temperature, filtered and the residue washed with ice-cooled isopropanol to give almost pure title compound in 80% yield.

reactant | 6-chloropurine | 10 mM, 1.546 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1-aminotetralin | 10 mM, 1.472 g | NC1CCCC2=CC=CC=C12 | C10H13N
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
product | adenine hydrochloride salt | 80% yield | Cl.N1=CN=C2N=CNC2=C1N | InChI=1S/C5H5N5.ClH/c6-4-3-5(9-1-7-3)10-2-8-4;/h1-2H,(H3,6,7,8,9,10);1H
